US04309424
To a cooled mixture of 31.1 g of N-formyl-α-(4-fluorophenyl)-2-nitrophenethylamine in 500 ml of tetrahydrofuran, 441 ml of 0.98 M borane in tetrahydrofuran is added dropwise. The mixture is allowed to stand over the weekend. The mixture is cooled and 100 ml of 5% hydrochloric acid and 20 ml of glacial acetic acid are added cautiously. The solvent is evaporated in vacuum and the residue treated with 10% sodium hydroxide solution. The free amine is extracted with ether and dried over anhydrous sodium sulfate and filtered. Ethereal hydrogen chloride is added dropwise to the filtrate and the product precipitates as the hydrochloride salt. Recrystallization from ethanol gives crystals, mp 241°-243° C. of α-(4-flurophenyl)-N-methyl-2-nitrophenethylamine hydrochloride.

reactant | N-formyl-α-(4-fluorophenyl)-2-nitrophenethylamine | 31.1 g | C(=O)NC(CC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)F | C15H13FN2O3
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | borane | 0.98 M, 441 ml | B | BH3
product | α-(4-flurophenyl)-N-methyl-2-nitrophenethylamine hydrochloride | Cl.FC1=CC=C(C=C1)C(CC1=C(C=CC=C1)[N+](=O)[O-])NC | InChI=1S/C15H15FN2O2.ClH/c1-17-14(11-6-8-13(16)9-7-11)10-12-4-2-3-5-15(12)18(19)20;/h2-9,14,17H,10H2,1H3;1H
